US04697005
a. 3-Hydroxy-7-fluoro-1(3H)-isobenzofuranone
To a -70° C. solution of the dimethylacetal of 3-fluorobenzaldehyde (5.3 g, 31 mmol) in THF (35 ml) was added dropwise sec-butyllithium (22.2 ml of a 1.4 M solution in hexane), and the red solution was stirred for 0.5 h. The solution was saturated with CO2 for 5 min with tne red color dissipating to yield a light yellow solution. After 10 min the reaction was allowed to warm to room temperature, and after 30 min HCl (3.5 ml) was added. After concentration the solution was made basic with 5% KOH (25 ml), the neutral material extracted with Et2O (2×40 ml), the base layer acidified to pH 1 witn HCl, and the product extracted with EtOAc (2×75 ml). Work up as usual afforded 4.5 g (86%) of the title compound, mp 11°-119°, suitable for use in the next step. Recrystallization of this material from EtOAc/PE gave analytically pure material: mp 126°-127° C.; IR 3400 (br s), 1740-1760 (structured s), 1630 (m), 1485 (m), 1300 (m), 1085 (s), 910 (m), 760 (m); 1H NMR 7.8-7.1 (highly structured m, 3 H), 6.60 (br s, 1H); exact mass calcd for C8H5O3F m/e 168.0227, obsd 168.0226.

reactant | 3-fluorobenzaldehyde | 31 mmol, 5.3 g | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | sec-butyllithium | C(C)(CC)[Li]
reactant | CO2 | C(=O)=O | CO2
reactant | HCl | 3.5 ml | Cl | ClH
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3-Hydroxy-7-fluoro-1(3H)-isobenzofuranone | 4.5 g, 86% | OC1OC(C2=C(C=CC=C12)F)=O | C8H5FO3
